US07268230B2
Diethyl azodicarboxylate (0.243 g, 1.396 mmol) was added dropwise to a solution of 4-chloro-7-hydroxy-6-methoxyquinazoline (0.245 g, 1.16 mmol), triphenylphosphine (0.396 g, 1.51 mmol) and 3-(4-acetylpiperazin-1-yl)propan-1-ol (0.238 g, 1.28 mmol), (prepared as described for the starting material in Example 1 or Example 7). After stirring at ambient temperature for 1 hour, the mixture was poured onto silica and eluted with increasingly polar mixtures of methylene chloride and methanol to give 7-(3-(4-acetylpiperazin-1-yl)propoxy)-4-chloro-6-methoxyquinazoline (0.29 g, 66%).

reactant | Diethyl azodicarboxylate | 1.396 mmol, 0.243 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-chloro-7-hydroxy-6-methoxyquinazoline | 1.16 mmol, 0.245 g | ClC1=NC=NC2=CC(=C(C=C12)OC)O | C9H7ClN2O2
reactant | triphenylphosphine | 1.51 mmol, 0.396 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(4-acetylpiperazin-1-yl)propan-1-ol | 1.28 mmol, 0.238 g | C(C)(=O)N1CCN(CC1)CCCO | C9H18N2O2
product | 7-(3-(4-acetylpiperazin-1-yl)propoxy)-4-chloro-6-methoxyquinazoline | 0.29 g, 66% | C(C)(=O)N1CCN(CC1)CCCOC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C18H23ClN4O3
